US07517873B2
A mixture of 0.037 g (0.00008 mole) of (rac)-4-(9-cyclopentyl-7-ethyl-5-ethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-yl amino)-3-methoxy-benzoic acid (I-14), 0.037 g (0.00012 mole) of 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium-3-oxide hexafluorophosphate, 0.042 mL (0.00024 mole) of ethyldiisopropyl amine and 1 mL of dimethylformamide was stirred for 5 minutes and then 0.014 g (0.00012 mole) of 4-amino-1-methyl-piperidine was added. The mixture was stirred for 3 hours, then diluted with 10 mL of water plus 2 mL of saturated sodium bicarbonate and then extracted 3 times with 10 mL of ethyl acetate. The combined extracts were washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by reverse phase silica gel chromatography, eluting with an acetonitrile-water gradient (20:80-100:0) to give 0.038 g of (rac)-4-(9-cyclopentyl-5,7-diethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide (I-15) as a white solid.

reactant | (rac)-4-(9-cyclopentyl-7-ethyl-5-ethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-yl amino)-3-methoxy-benzoic acid | 0.00008 mole, 0.037 g | C1(CCCC1)N1C2=C(N(C(C(C1)CC)=O)CC)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C24H31N5O4
reactant | 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium-3-oxide hexafluorophosphate | 0.00012 mole, 0.037 g | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=NC=CC=C21)[O-])N(C)C
reactant | ethyldiisopropyl amine | 0.00024 mole, 0.042 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-amino-1-methyl-piperidine | 0.00012 mole, 0.014 g | NC1CCN(CC1)C | C6H14N2
solvent | water | 10 mL | O | H2O
solvent | sodium bicarbonate | 2 mL | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | (rac)-4-(9-cyclopentyl-5,7-diethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide | 0.038 g | C1(CCCC1)N1C2=C(N(C(C(C1)CC)=O)CC)C=NC(=N2)NC2=C(C=C(C(=O)NC1CCN(CC1)C)C=C2)OC | C30H43N7O3
